US05112998
In 10 ml of toluene was dissolved 350 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(N,N-dimethylcarbamoyl)oxy-3β-(N-phenylcarbamoyl)oxypregn-6-en-5α-ol, followed by addition of 50 mg of pyridinium p-toluenesulfonate. The mixture was stirred in an atmosphere of argon gas at room temperature for 10 hours. The reaction mixture was then worked up in the same manner as Example 124 to give 100 mg of 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(N,N-dimethylcarbamoyl)oxy-3β-(N-phenylcarbamoyl)oxypregna-5,7-diene showing the following physical properties.

reactant | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(N,N-dimethylcarbamoyl)oxy-3β-(N-phenylcarbamoyl)oxypregn-6-en-5α-ol | 350 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2[C@@H]3C=C[C@]4(C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(N(C)C)=O)OC(NC1=CC=CC=C1)=O)O)C | C37H54N2O7
reactant | pyridinium p-toluenesulfonate | 50 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
solvent | toluene | 10 ml | C1(=CC=CC=C1)C | C7H8
product | 20-(5,5-dimethyl-1,3-dioxan-2-yl)-1α-(N,N-dimethylcarbamoyl)oxy-3β-(N-phenylcarbamoyl)oxypregna-5,7-diene | 100 mg | CC1(COC(OC1)C(C)[C@H]1CC[C@H]2C3=CC=C4C[C@H](C[C@@H]([C@]4(C)[C@H]3CC[C@]12C)OC(N(C)C)=O)OC(NC1=CC=CC=C1)=O)C | C37H52N2O6
